US07897597B2
N-[2-(4-Amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]-N′-isopropylurea (0.94 g, 1.66 mmol) was dissolved in 100 mL of warm ethanol and then cooled back to ambient temperature. 10% Palladium on carbon (0.35 g) was added and the mixture was shaken overnight under 50 psi (3.4×105 Pa) of hydrogen. The reaction was filtered through CELITE filter agent, and the filter pad was washed sequentially with ethanol and methanol. The filtrate was concentrated under reduced pressure. The resulting off white solid was purified by flash column chromatography on silica gel (eluting with 90:10:1 dichloromethane/methanol/aqueous ammonium hydroxide) to provide 0.53 g of N-[2-(4-amino-2-ethoxymethyl-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]-N′-isopropylurea as an off-white powder, m.p. 163-168° C.

reactant | N-[2-(4-Amino-7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]-N′-isopropylurea | 1.66 mmol, 0.94 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NC(=O)NC(C)C)COCC)OCC2=CC=CC=C2 | C28H36N6O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.35 g | [Pd] | Pd
product | N-[2-(4-amino-2-ethoxymethyl-7-hydroxy-1H-imidazo[4,5-c]quinolin-1-yl)-1,1-dimethylethyl]-N′-isopropylurea | 0.53 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NC(=O)NC(C)C)COCC)O | C21H30N6O3
